US09388185B2
Step 2. 2-[(E)-2-(3,5-dimethoxyphenyl)vinyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine
A stirred mixture of 2-bromo-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine (929 mg, 2.75 mmol), 2-[(E)-2-(3,5-dimethoxyphenyl)vinyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (from Aldrich, cat#676160, 838 mg, 2.89 mmol), [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II), complex with dichloromethane (1:1) (140 mg, 0.171 mmol), and potassium phosphate (1.20 g, 5.65 mmol) in 1,4-dioxane (20 mL)/water (9.6 mL) was heated at 88° C. After 1 hour, the reaction mixture was quenched with saturated aq. NH4Cl and extracted with methylene chloride. The combined organic layers were dried over MgSO4, filtered, and then concentrated. The residue was purified on silica gel (eluting with 0 to 50% EtOAc in hexanes) to give the desired product (1.10 g, 95%). LCMS calculated for C22H20N3O4S (M+H)+: m/z=422.2. Found: 422.2.

reactant | 2-bromo-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine | 2.75 mmol, 929 mg | BrC=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C12H8BrN3O2S
reactant | 2-[(E)-2-(3,5-dimethoxyphenyl)vinyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 2.89 mmol, 838 mg | COC=1C=C(C=C(C1)OC)/C=C/B1OC(C(O1)(C)C)(C)C | C16H23BO4
reactant | dichloromethane | 0.171 mmol, 140 mg | ClCCl | CH2Cl2
reactant | potassium phosphate | 5.65 mmol, 1.20 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) | Cl[Pd]Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | 9.6 mL | O | H2O
product | 2-[(E)-2-(3,5-dimethoxyphenyl)vinyl]-5-(phenylsulfonyl)-5H-pyrrolo[2,3-b]pyrazine | 1.10 g, 95% | COC=1C=C(C=C(C1)OC)/C=C/C=1N=C2C(=NC1)N(C=C2)S(=O)(=O)C2=CC=CC=C2 | C22H19N3O4S
